US04267184
(a) 4,5-Bis(4-methoxyphenyl)-2-(trifluoroacetyl)pyrrole
To a stirred solution of 2.5 g trifluoroacetic anhydride in 30 ml ether at 0° was added dropwise a solution of 2.8 g (0.01 mole) of 2,3-bis(4-methoxyphenyl)pyrrole and 1.5 g of dimethyl aniline in 20 ml ether. The mixture was stirred one hour at 0°, then diluted with more ether and washed with water, 1 N hydrochloric acid, then water again. The organic layer was dried and concentrated. The residue was purified by chromatography in Silic AR CC-7 (300 g, eluted by toluene), followed by recrystallization from methylcyclohexane to give 2.2 g (59%) of pale yellow crystals, m.p. 185°-186.5°.

reactant | trifluoroacetic anhydride | 2.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2,3-bis(4-methoxyphenyl)pyrrole | 0.01 mole, 2.8 g | COC1=CC=C(C=C1)C=1NC=CC1C1=CC=C(C=C1)OC | C18H17NO2
reactant | dimethyl aniline | 1.5 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 4,5-Bis(4-methoxyphenyl)-2-(trifluoroacetyl)pyrrole | 2.2 g, 59% | COC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)OC)C(C(F)(F)F)=O | C20H16F3NO3
